US04496720
A mixture consisting of 13.2 g (0.10 mole) of 5-mercapto-2-methyl-1,3,4-thiadiazole, 20 ml of toluene, 25 ml of hexamethylphosphoric triamide, 20 ml (0.096 mole) of hexamethyldisilazane and 50 mg (0.1 mmole) of di-4-nitrophenyl N-(4-toluenesulfonyl)-phosphoramidate was refluxed for 90 minutes and the mixture was then concentrated to obtain a solution of 5-trimethylsilylthio-2-methyl-1,3,4-thiadiazole in hexamethylphosphoric triamide. 15 ml of acetonitrile and 21.5 ml (0.20 mole) of butyl bromide were added thereto and the mixture was stirred for 5 hours at room temperature and then concentrated. 100 ml of water and sodium bicarbonate were added until evolution of carbon dioxide stopped and the mixture was extracted with ethyl acetate. The extract was dried, filtered and evaporated to dryness and the residue was separated by chromatography (silica gel; dichloromethane and a 95:5 mixture of dichloromethane and acetone, respectively) to obtain 0.4 g of 3-butyl-5-methyl-Δ4 -1,3,4-thiadiazoline-2-thione as a by-product.

reactant | 5-mercapto-2-methyl-1,3,4-thiadiazole | 0.10 mole, 13.2 g | SC1=NN=C(S1)C | C3H4N2S2
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | hexamethyldisilazane | 0.096 mole, 20 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | hexamethylphosphoric triamide | 25 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 5-trimethylsilylthio-2-methyl-1,3,4-thiadiazole | C[Si](SC1=NN=C(S1)C)(C)C | C6H12N2S2Si
